US05536718
4-[([1,1'-Biphenyl]-2-carbonyl)amino]benzoyl Chloride
A mixture of 1.39 g of 4-[([1,1'-biphenyl]-2-carbonyl)amino]benzoic acid in 2.0 ml of thionyl chloride is heated on a steam bath for 1 hour. Cold hexane is added and the crystalline solid collected and dried to give 1.34 g of the desired product, m.p. 118°-120° C.

reactant | 4-[([1,1'-biphenyl]-2-carbonyl)amino]benzoic acid | 1.39 g | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C20H15NO3
reactant | hexane | CCCCCC | C6H14
reactant | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-[([1,1'-Biphenyl]-2-carbonyl)amino]benzoyl Chloride | 1.34 g | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C(=O)Cl)C=C1)C1=CC=CC=C1 | C20H14ClNO2
